US05952511
To a suspension of 0.35 g of sodium hydride (60%) in 20 ml of N,N-dimethylformamide was added dropwise a solution of 2.00 g of 3-(benzyloxyimino)indolin-2-one in 20 ml of N,N-dimethylformamide at 0° C. in a nitrogen stream. After stirring the mixture at room temperature for 1 hour, 1.40 ml of bromoacetaldehyde diethyl acetal was added thereto, and the mixture was stirred for 12 hours at 70° C. The reaction mixture was concentrated, and the residue was diluted with ethyl acetate and washed with an aqueous solution of sodium chloride. The organic layer was dried over anhydrous sodium sulfate and concentrated. The resulting crude product was purified by silica gel column chromatography (chloroform/methanol=100/1) to give 2.20 g (76%) of 3-(benzyloxyimino)-1(2,2-diethoxyethyl)indolin-2-one.

reactant | sodium hydride | 0.35 g | [H-].[Na+]
reactant | 3-(benzyloxyimino)indolin-2-one | 2.00 g | C(C1=CC=CC=C1)ON=C1C(NC2=CC=CC=C12)=O | C15H12N2O2
reactant | bromoacetaldehyde diethyl acetal | 1.40 ml | C(C)OC(CBr)OCC | C6H13BrO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(benzyloxyimino)-1(2,2-diethoxyethyl)indolin-2-one | 2.20 g, 76% | C(C1=CC=CC=C1)ON=C1C(N(C2=CC=CC=C12)CC(OCC)OCC)=O | C21H24N2O4
